* C:\Users\hrast\OneDrive - Εθνικό Μετσόβιο Πολυτεχνείο\Help\ΣΑΗΣ\LABS\Lab1\3_b.asc
X§Α1 0 N002 N001 N003 Uout LM324
R1 Uout N002 10K tol=1 pwr=0.1
V§+Vs N001 0 +5
V§-Vs N003 0 -5
V1 Uin 0 PWL(0 0 0.4m 1 0.8m 0 1.2m -1 1.6m 0 2m 1 2.4m 0) AC 0.5
C1 N002 Uin 10nF
.include LM324.lib
.tran 4m
.backanno
.end
