* C:\Users\hrast\OneDrive - Εθνικό Μετσόβιο Πολυτεχνείο\HRAKLIS-ANTONIS\ΣΑΗΣ\Lab2\lab2_d.asc
X§U1 N001 Uin Vcc 0 Uout LM324
X§U2 N003 Uin Vcc 0 Uin LM324
Ri N003 Uin 100K
Ro N003 N002 100K
Ru N003 V 100K
R3 N002 N001 100K
R1 N001 0 100K
R2 Vcc N001 100K tol=1 pwr=0.1
Vcc1 Vcc 0 2.6
V V 0 PWL(0 0 0.25m 2.5 0.5m 0 0.75m -2.5 1m 0)
.tran 1m
.include LM324.lib
.backanno
.end
