* C:\Users\anton\OneDrive - Εθνικό Μετσόβιο Πολυτεχνείο\Hraklis_Antonis\ΣΑΗΣ\Lab3\lab_3.asc
* Generated by LTspice 24.1.4 for Windows.
X§U2 N004 N001 Vcc 0 Utr LM324
X§U1 N002 Utr Vcc 0 Usq LM324
R4 N001 N003 56K tol=1 pwr=0.1
R5 N004 N003 27K tol=1 pwr=0.1
R6 N004 0 27k
R7 N001 N005 27K
C1 Utr N001 1n
R2 Vcc N002 100K tol=1 pwr=0.1
R1 N002 0 100K tol=1 pwr=0.1
R3 Usq N002 100k
V§Uctrl N003 0 5
Vcc Vcc 0 5
M2 N005 Usq 0 NC_01 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\anton\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1m
.include LM324.lib
.backanno
.end
