* C:\Users\anton\OneDrive - Εθνικό Μετσόβιο Πολυτεχνείο\Hraklis_Antonis\ΣΑΗΣ\Lab3\lab_3.asc
* Generated by LTspice 24.1.4 for Windows.
X§U1 N008 N003 N007 0 N004 LM324
X§U2 N001 N004 0 N006 N002 LM324
R4 N003 N009 R
R5 N008 N009 R
R6 N008 0 R
R7 N003 N010 R
V1 N007 0 V
C1 N004 N003 C
M1 0 N002 N010 N010 NMOS
R1 N005 N001 R
R2 N001 0 R
V2 N005 0 V
V3 N006 0 V
R3 N002 N001 R
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\anton\AppData\Local\LTspice\lib\cmp\standard.mos
.include LM324.lib
.tran 0.2m
.backanno
.end
